US08912186B2
To a solution of commercial 4-biphenylcarboxaldehyde (5.37 g) and ethyl acetoacetate (7.68 g) in ethanol (10 ml) piperidine (1 ml) was added with stirring at rt. The yellow solution was kept at rt overnight. The precipitate was collected by suction filtration and washed with ethanol. After drying in vacuo 10.2 g of a faint yellowish solid (the bis-adduct of acetoacetate to the aldehyde) was isolated. The finely divided solid was added in portions to 40% NaOH (120 g) with stirring. The resulting yellow slurry was stirred at reflux for 2 h. After cooling in an ice bath the mixture was acidified by portionwise addition of conc. HCl (110 ml) to give a yellowish precipitate. The solid was collected by suction filtration and washed with water. After drying in vacuo slightly impure 3-(4-biphenyl-4-yl)glutaric acid (8.1 g) was obtained. The suspension of finely divided 3-(4-biphenyl-4-yl)glutaric acid in acetyl chloride (28 ml) was heated to reflux with stirring for 2 h. After cooling to rt precipitation of the product is completed by addition of petrol ether (100 ml). The precipitate is isolated by suction filtration, washed with petrol ether, and dried at the air to give a crude (4.39 g). The crude was dissolved in dichloromethane (110 ml), filtered, and the filtrate concentrated in vacuo to afford 3-(biphenyl-4-yl)glutaric anhydride (3.37 g) as colourless solid.

reactant | 4-biphenylcarboxaldehyde | 5.37 g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | ethyl acetoacetate | 7.68 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NaOH | 120 g | [OH-].[Na+]
reactant | HCl | 110 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetyl chloride | 28 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 3-(biphenyl-4-yl)glutaric anhydride | 3.37 g | C1(=CC=C(C=C1)C1CC(=O)OC(C1)=O)C1=CC=CC=C1 | C17H14O3
